* C:\sandbox\spicelib_main\examples\testfiles\TRAN_1.asc
Vin in 0 PWL(0 0 10n 1)
R1 in out 1k
C1 out 0 1µ
.tran 5m
.meas TRAN t1 FIND V(out) AT 1m
.meas TRAN t2 FIND V(out) AT 2m
.meas TRAN t3 FIND V(out) AT 3m
.meas TRAN t4 FIND V(out) AT 4m
.meas TRAN t5 FIND V(out) AT 5m
.backanno
.end
